US07253286B2
N-(2-Chloro-4-((6-cyano-7-(4-piperidylmethoxy)-4-quinolyl)oxy)phenyl)-N′-cyclopropylurea
After adding trifluoroacetic acid (2.5 ml) to tert-butyl 4-(((4-(3-chloro-4-((cyclopropylamino)carbonyl)aminophenoxy)-6-cyano-7-quinolyl)oxy)methyl)-1-piperidinecarboxylate (501 mg, 0.846 mmol) at room temperature, the mixture was stirred for 1 hour. The reaction solution was diluted with water (35 ml) while cooling in an ice water bath, and then sodium bicarbonate (3.5 g) was gradually added for neutralization and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine, and then dried over anhydrous sodium sulfate. The solvent was distilled off, the residue was suspended in ethyl acetate and diluted with hexane, and the precipitated crystals were filtered out and blow-dried to obtain the title compound (414.4 mg, 0.842 mmol, 99.6%) as white crystals.

reactant | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(((4-(3-chloro-4-((cyclopropylamino)carbonyl)aminophenoxy)-6-cyano-7-quinolyl)oxy)methyl)-1-piperidinecarboxylate | 0.846 mmol, 501 mg | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1NC(=O)NC1CC1 | C31H34ClN5O5
reactant | sodium bicarbonate | 3.5 g | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 35 ml | O | H2O
product | N-(2-Chloro-4-((6-cyano-7-(4-piperidylmethoxy)-4-quinolyl)oxy)phenyl)-N′-cyclopropylurea | 0.842 mmol, 414.4 mg, 99.6% | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)OCC1CCNCC1)NC(=O)NC1CC1 | C26H26ClN5O3
